US07514468B2
2-amino-5-(4-methyl-piperazin-1-yl-carbonyl)-pyridine
3.00 g 6-amino-nicotinic acid are dissolved in 30 ml of dimethylformamide and 4.05 g of N,N-carbonyldiimidazole are added. The mixture is briefly heated to 70° C. and then stirred for a further hour at ambient temperature. After this time 4.85 ml of N-methylpiperazine are added and the mixture is stirred for 12 hours at ambient temperature. The solvent is eliminated and the residue is purified through a silica gel column with methylene chloride/ethanol/ammonia 7:1:0.1 as eluant.

reactant | 6-amino-nicotinic acid | 3.00 g | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | N,N-carbonyldiimidazole | 4.05 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N-methylpiperazine | 4.85 ml | CN1CCNCC1 | C5H12N2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-amino-5-(4-methyl-piperazin-1-yl-carbonyl)-pyridine | NC1=NC=C(C=C1)C(=O)N1CCN(CC1)C | C11H16N4O
